US06340685B1
Preparation of N-methylacetyl-4-Benzylpiperidinyl indole-5-carboxamide and its free acid
1.95 g (6.13 mmol) of 4-benzylpiperidinyl indole-5-carboxamide was dissolved in 30 mL dry DMF and was treated with 320 mg (8 mmol, 60% suspension in oil) sodium hydride for 30 minutes. The reaction mixture was cooled to 0° C. and 1.225 g (8 mmol) bromomethylacetate was added and stirring continued for 1 h at 0° C. The ice-bath was removed and stirring continued for another 6 h at room temperature. The reaction was quenched by the addition of sat. ammonium chloride solution, diluted with water and extracted with dichloromethane. The extract was dried, evaporated and the residue purified by column chromatography on silica gel eluting with ethylacetate-hexane (25 -35% ethylacetate) to yield 2.2 g ( 92%) of the desired product. MS: M+, 390; M+-1, 389. 1HNMR (CDCl3): □ 7.7 (s, 1H); 7.35-7.1 (m, 8H); 6.6 (s, 1H); 5.1 (s, 2H); 3.75 (s, 3H); 3.0-2.7 (br, m, 4H); 2.6 ( d, 2H); 1.9-1.2 9m, 5H).

reactant | 4-benzylpiperidinyl indole-5-carboxamide | 6.13 mmol, 1.95 g | C(C1=CC=CC=C1)C1CCN(CC1)C=1NC2=CC=C(C=C2C1)C(=O)N | C21H23N3O
reactant | sodium hydride | 8 mmol, 320 mg | [H-].[Na+]
reactant | bromomethylacetate | 8 mmol, 1.225 g | BrCOC(C)=O | C3H5BrO2
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
product | N-methylacetyl-4-Benzylpiperidinyl indole-5-carboxamide | 2.2 g, 92% | CCC(=O)NC(=O)C=1C=C2C=C(NC2=CC1)N1CCC(CC1)CC1=CC=CC=C1 | C24H27N3O2
